US07547710B2
To a mixture of 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-1,3-thiazole-4-carboxylic acid (0.26 g, 0.5 mmol), n-tributylphosphine (0.25 ml, 1.0 mmol), isopropanol (0.5 ml) and tetrahydrofuran (10 ml) was added 1,1-(azodicarbonyl)dipiperidine (0.25 g, 1.0 mmol), and the mixture was stirred at room temperature for 2 hrs. Precipitated crystals were removed and the solvent was evaporated. The residue was purified by silica gel column chromatography to give isopropyl 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-1,3-thiazole-4-carboxylate (0.20 g, yield 71%) as white crystals.

reactant | 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-1,3-thiazole-4-carboxylic acid | 0.5 mmol, 0.26 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C=1SC=C(N1)C(=O)O)CC(C)C | C30H33N3O4S
reactant | isopropanol | 0.5 ml | C(C)(C)O | C3H8O
reactant | 1,1-(azodicarbonyl)dipiperidine | 1.0 mmol, 0.25 g | C1CCN(CC1)C(=O)/N=N/C(=O)N2CCCCC2 | C12H20N4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | isopropyl 2-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]-1,3-thiazole-4-carboxylate | 0.20 g, yield 71% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)C=1SC=C(N1)C(=O)OC(C)C)CC(C)C | C33H39N3O4S
